US04561878
(c) N-(2-Difluoromethoxyphenylsulfonyl)-N'-(4-chloro-6-methyl-pyrimidin-2-yl)urea
34.2 g of 2-difluoromethoxyphenylsulfonyl isocyanate and 19.7 g of 2-amino-4-chloro-6-methyl-pyrimidine are stirred in 40 ml of dioxane for 3 hours at 90°-100° C. The solution is then cooled to 20° C., filtered, and concentrated to about 1/4 of its volume. After addition of ether, 32.9 g of N-(2-difluoromethoxyphenylsulfonyl)-N'-(4-chloro-6-methyl-pyrimidin-2-yl)urea crystallise from the residue.

reactant | 2-difluoromethoxyphenylsulfonyl isocyanate | 34.2 g | FC(OC1=C(C=CC=C1)S(=O)(=O)N=C=O)F | C8H5F2NO4S
reactant | 2-amino-4-chloro-6-methyl-pyrimidine | 19.7 g | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | N-(2-Difluoromethoxyphenylsulfonyl)-N'-(4-chloro-6-methyl-pyrimidin-2-yl)urea | FC(OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)Cl)C)F | C13H11ClF2N4O4S
